US04298529
1 N Aqueous sodium hydroxide (130 ml) was added to a solution of ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate (syn isomer, 25.7 g) in ethanol (150 ml), and stirred at ambient temperature overnight. The resultant solution was concentrated under reduced pressure. The residue was dissolved in a saturated aqueous solution of sodium chloride (80 ml) and washed with diethyl ether. Diethyl ether (100 ml) was added to the aqueous solution, adjusted to pH 1 with 10% hydrochloric acid and the diethyl ether layer was separated. The aqueous layer was extracted with diethyl ether (50 ml) twice. The diethyl ether layer and the extracts were combined, washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After evaporating the solvent, the residue was crystallized and washed with n-hexane. The precipitates were collected by filtration and dried to give 2-methoxyimino-3,3-ethylenedioxybutyric acid (syn isomer, 17.7 g).

reactant | sodium hydroxide | 1 N, 130 ml | [OH-].[Na+]
reactant | ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate | 25.7 g | CON=C(C(=O)OCC)C1(C)OCCO1 | C9H15NO5
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-methoxyimino-3,3-ethylenedioxybutyric acid | 17.7 g | CON=C(C(=O)O)C1(C)OCCO1 | C7H11NO5
